US09065061B2
Step 1: Synthesis of N-phenylisobutyramide
First, 26.2 g of aniline, 100 mL of tetrahydrofuran (THF), and 56.9 g of triethylamine (Et3N) were put in a 500 mL three-neck flask, and mixed. Then, under cooling in ice, a mixed solution of 30 g of isobutyryl chloride and 100 mL of THF was dripped through a 50 mL dropping funnel to the above mixed solution, and then the temperature was increased to room temperature and the solution was stirred for 19 hours to be reacted. After the reaction, this mixture was subjected to suction filtration to give a filtrate. The resulting filtrate was washed with water, and then saturated saline, and anhydrate magnesium sulfate was added for drying. After the drying, the mixture was subjected to gravity filtration, and the filtrate was concentrated, so that N-phenylisobutyramide was prepared (a white solid, yield: 91%). The synthetic scheme of Step 1 is shown by (a-10).

reactant | aniline | 26.2 g | NC1=CC=CC=C1 | C6H7N
reactant | triethylamine | 56.9 g | C(C)N(CC)CC | C6H15N
reactant | isobutyryl chloride | 30 g | C(C(C)C)(=O)Cl | C4H7ClO
solvent | THF | 100 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
product | N-phenylisobutyramide | yield: 91% | C1(=CC=CC=C1)NC(C(C)C)=O | C10H13NO
